US07732463B2
1-Bromo-2-(4-chloro-phenylsulfanyl)-5-methyl-benzene (intermediate for 2 g).
Prepared from 4-chloro-benzenethiol and 2-bromo-1-iodo-4-methyl-benzene.

reactant | 4-chloro-benzenethiol | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 2-bromo-1-iodo-4-methyl-benzene | BrC1=C(C=CC(=C1)C)I | C7H6BrI
product | 1-Bromo-2-(4-chloro-phenylsulfanyl)-5-methyl-benzene | BrC1=C(C=CC(=C1)C)SC1=CC=C(C=C1)Cl | C13H10BrClS
